US07601850B2
To a 0° C. solution of {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanol (6 g,) in THF (50 ml) is treated with PBr3 (2.2 ml, 23.3 mmol) and warmed to RT. After stirring for 2 h, the mixture is partitioned between EtOAc and brine. The organic layer is MgSO4 dried, concentrated, and dissolved in anhydrous THF (30 ml) to give a solution of {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methane bromide. Separately, a solution of 3,3-dimethyl-butan-2-one (5.3 ml, 42.4 mmol) in THF (15 ml) is treated with LiHMDS (42.4 ml, 42.4 mmol, 1M in THF) at −70° C. for 1 h. This solution is transferred (via cannula) into a −70° C. solution of {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanebromide/THF. The mixture is warmed to RT and stirred for 1 h. The reaction is diluted with EtOAc and washed with 0.2 N HCl until the aq layer is pH 2. The organic layer is concentrated to give the title compound (6.2 g, 79%).

reactant | {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanol | 6 g | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)CO)C | C18H24OS
reactant | PBr3 | 23.3 mmol, 2.2 ml | P(Br)(Br)Br | Br3P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methane bromide | [Br-].C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)C)C | InChI=1S/C18H24S.BrH/c1-6-18(7-2,17-10-13(3)12-19-17)16-9-8-14(4)15(5)11-16;/h8-12H,6-7H2,1-5H3;1H/p-1
